US08034812B2
Production of N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-methylphenyl]-1,2,5-trimethyl-1H-pyrrole-3-carboxamide
To a solution of 1,2,5-trimethylpyrrole-3-carboxylic acid (142 mg, 0.93 mmol) in tetrahydrofuran (4.0 mL) were added N,N-dimethylformamide (20 μL, 0.26 mmol) and oxalyl chloride (108 μL, 1.24 mmol), and the mixture was stirred at room temperature for 30 min. The reaction mixture was added to a solution of N-[6-(3-amino-4-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (200 mg, 0.62 mmol) and triethylamine (259 μL, 1.86 mmol) in N,N-dimethylacetamide (4.0 mL), and the mixture was stirred at 50° C. for 16 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate, washed with saturated brine, dried over anhydrous sodium sulfate, and filtrated. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=1/3→ethyl acetate alone), washed with hexane/ethyl acetate and filtrated to give the title compound (68 mg, 24%) as a white powder.

reactant | 1,2,5-trimethylpyrrole-3-carboxylic acid | 0.93 mmol, 142 mg | CN1C(=C(C=C1C)C(=O)O)C | C8H11NO2
reactant | N,N-dimethylformamide | 0.26 mmol, 20 μL | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 1.24 mmol, 108 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[6-(3-amino-4-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.62 mmol, 200 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1C | C17H17N5O2
reactant | triethylamine | 1.86 mmol, 259 μL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 4.0 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethylacetamide | 4.0 mL | CN(C(C)=O)C | C4H9NO
solvent | Water | O | H2O
product | N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-methylphenyl]-1,2,5-trimethyl-1H-pyrrole-3-carboxamide | 68 mg, 24% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=CC(=C(C2)NC(=O)C2=C(N(C(=C2)C)C)C)C)C1 | C25H26N6O3
